Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with history of CAD, HTN, Afib on warfarin, prior CVA, 
vascular dementia and CKD presents after mechanical fall at ___ 
found to have SAH. 

Per phone discussion with staff at ___, patient was 
sleeping in a low bed approximately 4 inches off the ground.  He 
rolled out of bed onto the floor and because he was on warfarin 
was transferred to an outside hospital.  The staff reports that 
at his baseline he is very confused and typically does not know 
the year or the month.  He does have periods of being oriented,
though this is typically after he has spent time with his 
family. They also report that he is been having congestion for 
the last several days and was recently started on prednisone 60 
mg tapering every 2 days.

At the outside hospital a CT C-spine was negative and a CT head 
demonstrated subarachnoid hemorrhage in the right temporal 
region.  His INR was 4.2 and he received 1 g of Keppra 10 mg of 
vitamin K and 3 Thousand 282 units of Kcentra he was then 
transferred to ___ for neurosurgery consult.

Patient reports that he typically runs 5 miles every day and has 
had some falls recently that is why his son brought him in for 
evaluation.  He is very concerned about regaining his strength 
and would like to go back to the gym as soon as possible. 
Currently endorses no fevers, chills, nausea, vomiting, chest
pain, shortness of breath, weakness or numbness.  He does report 
that he has been coughing for several weeks now but feels as 
though this is improving.

In the ED, initial vitals:  T 96.4 HR 80, BP 159/102, RR 16 O2
Sat 95% on RA

- Exam notable for:  
Mental Status: Awake and alert,

Orientation: AAOx2 (Name, Hospital) did not know date

Language: Speech is occasionally confused, with missed words 

Cranial Nerves:
I: Not tested
II: Pupils reactive to light, left: Minimally reactive, post
surgical, Right: 3 mm and reactive
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and small right
facial droop, however activated symmetrically.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: 
BUE: ___ Biceps, and grip.
RLE: ___ Hip flexors, ___ ___ 
LLE: ___ Hip flexors, ___ ___ 

Sensation: 
Grossly intact and symmetric to light touch bilaterally 

- Labs notable for: WBC 12.0, Hgb 12.5, Cr 1.6, INR 1.2

- Imaging notable for:  
CT Head: No interval enlargement of right temporal lobe
subarachnoid hemorrhage. No evidence of new hemorrhage or mass
effect

- Pt given:  
Docusate Sodium 100 mg  
IV Labetalol 10 mg  
PO Pantoprazole 40 mg 
PO Multivitamins 1 TAB 
PO Metoprolol Tartrate 25 mg 
PO Donepezil 10 mg  
PO Cyanocobalamin 1000 mcg 
1L NS

- Vitals prior to transfer:  HR 70 BP 107/59 RR 16 O2 Sat 99% RA 


On the floor the patient feels well and is without complaints. 

 
Past Medical History:
Vascular dementia 
HTN
HLD
Gout 
Chronic atrial fibrillation on Coumadin 
History of bilateral pulmonary emboli
History of CVA  
CKD
Anxiety
Right quadriceps rupture s/p repair ___
Glaucoma s/p 2 cataract surgeries, most recently 1.5 months ago
Basal cell carcinoma 
 
Social History:
___
Family History:
No early MI, no sudden cardiac death.  Brother has pacemaker.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Temp: 97.3 PO BP: 155/88 HR: 69 RR: 18 O2 sat: 97% O2 
delivery:Ra 
General: Alert, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, neck
supple, JVP not elevated, ecchymosis over left forehead 
CV: Irregular, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Bilateral rhonchi, L>R, in no respiratory distress 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: Foley in place   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: Left surgical pupil, R 4mm and reactive to light, Mild R
sided facial droop, CN ___ otherwise intact.
   Delt Bic Tri WrE IP Quad Ham Gastroc 
 L  5    ___   ___   5       
 R  5    ___   ___   5   
Alert, oriented to ___ (reports ___ is best hospital in the
country), ___, unable to name year 

DISCHARGE PHYSICAL EXAM
=======================
VS: ___ 0350 Temp: 97.8 PO BP: 177/98 (recheck 160/68) HR:
69 RR: 18 O2 sat: 100% O2 delivery: Ra  
GENERAL: NAD
HEENT: Left supraorbital hematoma with mild tenderness to
palpation. Left post-surgical pupil. EOMI. MMM
NECK: supple, no LAD
CV: Irregularly irregular, normal rate, S1/S2, no murmurs,
gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: No cyanosis, clubbing, or edema
NEURO: Alert, oriented to Self and "Hospital," not to year.
Moving all 4 extremities with purpose, face symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:20AM   ___ PTT-27.1 ___
___ 01:20AM   NEUTS-81.6* LYMPHS-8.2* MONOS-9.4 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-9.76* AbsLymp-0.98* AbsMono-1.12* 
AbsEos-0.00* AbsBaso-0.02
___ 01:20AM   WBC-12.0* RBC-3.86* HGB-12.5* HCT-38.2* 
MCV-99* MCH-32.4* MCHC-32.7 RDW-12.7 RDWSD-45.7
___ 07:33AM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 08:45PM   GLUCOSE-147* UREA N-24* CREAT-1.7* SODIUM-144 
POTASSIUM-3.9 CHLORIDE-109* TOTAL CO2-25 ANION GAP-10

DISCHARGE LABS
==============
___ 06:17AM BLOOD WBC-8.1 RBC-4.38* Hgb-13.9 Hct-43.2 
MCV-99* MCH-31.7 MCHC-32.2 RDW-12.7 RDWSD-45.1 Plt ___
___ 06:17AM BLOOD Glucose-86 UreaN-27* Creat-1.5* Na-146 
K-4.6 Cl-106 HCO3-26 AnGap-14
___ 06:17AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.8
___ 06:17AM BLOOD ___ PTT-27.0 ___

IMAGING
=======
___ CT Head w/o Contrast:
FINDINGS:  
Seen again is the hyperdensity in the right temporal lobe 
consistent with a subarachnoid bleed.  Compared to the prior 
study, there is no evidence of
interval enlargement or new bleed.  There is no edema, shift of 
normally 
midline structures, or evidence of acute major vascular 
territorial infarction.  Hypodensity seen in the right parietal 
lobe consistent with old infarct.  Ventricles and sulci are 
prominent consistent with age-related involutional change.  
Periventricular white matter hypodensity consistent small vessel 
ischemic changes. 
  
There is a overlying left frontal subgaleal hematoma without 
acute fracture. The imaged paranasal sinuses are clear. Mastoid 
air cells and middle ear cavities are well aerated. The bony 
calvarium is intact. 
  
IMPRESSION:  
No interval enlargement of right temporal subarachnoid 
hemorrhage.  No 
evidence of new hemorrhage or mass effect.

CXR ___:
Pulmonary edema has resolved.  Left-sided pacemaker is 
unchanged. Moderate 
cardiomegaly is again seen.  There is no pleural effusion.  No 
neumothorax is seen.
 
Brief Hospital Course:
___ year old male with a history of CAD, HTN, Afib on warfarin, 
prior CVA, vascular dementia and CKD presents after mechanical 
fall at ___ found to have SAH. Warfarin was reversed, and he was 
seen by neurosurgery who determined that there was no need for 
surgical intervention. Plan to hold AC for at least two weeks 
and goal SBP <160. He also had URI symptoms and a leukocytosis 
on admission thought to be due to recent prednisone treatment, 
which resolved after holding steroids and his URI symptoms 
resolved without intervention.

ACUTE/ACTIVE PROBLEMS
=====================
# SAH s/p fall:
Presenting after mechanical fall with headstrike. Found to have 
supratheraputic INR and SAH. Received Vitamin K, Kcentra and 
Keppra and transferred for neurosurgery eval. SAH remains stable 
on CT head, no intervention planned by neurosurgery. From 
history fall appears purely mechanical without evidence of 
syncope. Monitored on telemetery without incident. Plan for 
follow up with neurosurgery in 2 weeks, holding antiplatelet 
agents / anticoagulation until then.

# HTN:
Not on home anti-HTN. BP has been somewhat variable this 
admission, SBPs mostly 140-150, will add amlodipine 5MG daily 
until neurosurgery follow up to keep BP <160 after SAH. If BPs 
stay consistently below 145 and cleared by neurosurgery, OK to 
discontinue this due to concern for orthostatic hypotension / 
falls in the future.

# A fib:
CHADSVASC 6. S/p AV node ablation with pacemaker implant in ___ 
for chronic AF with rapid ventricular response. Currently 
holding warfarin in setting of SAH as above until cleared by 
neurosurgery, although the decision to restart anticoagulation 
at all will have to be made given the patients recent falls and 
now confirmed SAH on warfarin. Formal recommendation is to hold 
anticoagulation given higher risk from bleed over stroke, but 
decision can be made at outpatient neurosurgery appointment 
after understanding the risks of either decision. Continued 
metoprolol tartrate 25 mg twice daily. 

# Bronchitis 
# Leukocytosis - resolved
Presenting with mild leukocytosis with no fever though with 
cough of several weeks.  Per report from ___ patient was 
recently diagnosed with bronchitis and started on prednisone 
burst.  Suspect leukocytosis is in setting of steroid 
administration versus reactive from SAH, which resolved without 
intervention.

CHRONIC/STABLE PROBLEMS
======================= 
# CKD:
Unclear baseline creatinine though in ___ was noted to be stage 
III with baseline Cr 1.3. Cr near baseline this admission

# GERD:
Continued pantoprazole

# Insomnia:
Continued mirtazapine

# Hyperlipidemia:
Continued atorvastatin

# Dementia:
Continued donezepil

# CAD:
Unclear cardiac history, though with documented CAD in OMR from 
___. Continued statin. Not on ASA, would not start it 
especially in near future given SAH as above.

TRANSITIONAL ISSUES
===================
DISCHARGE HBG: 13.9
DISCHARGE CR: 1.5
[ ] Continue to monitor BP, goal SBP <160. Patient was started 
on amlodipine this admission, can uptitrate if necessary. If BPs 
are persistently <130 and/or cleared by neurosurgery, please 
discontinue it.
[ ] Hold anticoagulation until neurosurgery follow up 
appointment. Continue discussions with the patient/son about the 
risks and benefits of warfarin going forward. Patient should 
call ___ for Neurosurgery follow-up if issues with 
scheduling the appointment 

# CODE STATUS: DNR/DNI (Confirmed)
# CONTACT: ___ (Son)
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
2. Docusate Sodium 100 mg PO DAILY:PRN Constipation - First Line 

3. melatonin 6 mg oral QHS 
4. Multivitamins 1 TAB PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Warfarin 5 mg PO DAILY16 
7. Atorvastatin 10 mg PO QPM 
8. Donepezil 10 mg PO QHS 
9. Metoprolol Tartrate 25 mg PO BID 
10. Mirtazapine 7.5 mg PO QHS 
11. Pantoprazole 40 mg PO Q24H 
12. PredniSONE 60 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 4 tapered doses
13. PredniSONE 40 mg PO DAILY 
Start: After 60 mg DAILY tapered dose 
This is dose # 2 of 4 tapered doses
14. PredniSONE 20 mg PO DAILY 
Start: After 40 mg DAILY tapered dose 
This is dose # 3 of 4 tapered doses
15. PredniSONE 10 mg PO DAILY 
Start: After 20 mg DAILY tapered dose 
This is dose # 4 of 4 tapered doses

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atorvastatin 10 mg PO QPM  
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line  
6.  Donepezil 10 mg PO QHS  
7.  melatonin 6 mg oral QHS  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Mirtazapine 7.5 mg PO QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12. HELD- Warfarin 5 mg PO DAILY16  This medication was held. Do 
not restart Warfarin until cleared by neurosurgery

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Subarachnoid Hemorrhage

SECONDARY DIAGNOSES
====================
Atrial fibrillation 
Vascular dementia
Hypertension
Hyperlipidemia 
Gout
History of stroke

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You fell out of bed and were found to have some bleeding in 
your brain

- You had a cough and elevated white blood cell count concerning 
for infection.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your blood thinner was stopped and you were seen by the 
neurosurgery team who determined that there was no need for 
surgery.

- You were started on a blood pressure medication to keep your 
pressure under control, you should be able to stop this in the 
future.

- We stopped the steroids that you had been given on and your 
white blood cell count went to normal. Your congestion resolved 
on its own.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.

- You should take your blood pressure medication and stop taking 
your blood thinner until you see the neurosurgeon in follow-up.

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___